US07491735B2
A mixture of (4-bromophenyl)-piperidin-4-yl-methanone (536 mg, 2.00 mmol), catechol (880 mg, 8.00 mmol) and p-TsOH.H2O (760 mg, 4.00 mmol) in xylene (20 mL) was heated at reflux with a Dean-Stark apparatus to remove water for 68 hours. Standard work-up and purification gave 4-[2-(4-bromophenyl)-benzo[1,3]dioxol-2-yl]-piperidine (629 mg, 87%) as a yellow foam.

reactant | (4-bromophenyl)-piperidin-4-yl-methanone | 2.00 mmol, 536 mg | BrC1=CC=C(C=C1)C(=O)C1CCNCC1 | C12H14BrNO
reactant | catechol | 8.00 mmol, 880 mg | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | p-TsOH.H2O | 4.00 mmol, 760 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | xylene | 20 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 4-[2-(4-bromophenyl)-benzo[1,3]dioxol-2-yl]-piperidine | 629 mg, 87% | BrC1=CC=C(C=C1)C1(OC2=C(O1)C=CC=C2)C2CCNCC2 | C18H18BrNO2
